US06384220B2
A solution of triphenylphosphine (59 mg, 0.22 mmol) in methylene chloride (1 mL) was cooled to 0° C. and then slowly treated with N-bromosuccinimide (39 mg, 0.22 mmol). The reaction mixture was stirred at 0° C. for 20 min and then treated with 3-cyclopentyl-2-(4-pyridin-4-yl-phenyl)-propionic acid (55 mg, 0.19 mmol). The resulting reaction mixture was stirred at 0° C. for 10 min and then allowed to warm to 25° C., where it was stirred for 20 min. The reaction mixture was then treated with 2-aminopyridine (39 mg, 0.41 mmol). The resulting reaction mixture was stirred at 25° C. for 15 h. The crude reaction mixture was then directly purified by flash chromatography (Merck Silica gel 60, 230-400 mesh, 20/1 methylene chloride/methanol) to afford impure 3-cyclopentyl-N-pyridin-2-yl-2-(4-pyridin-4-yl-phenyl)-propionamide as a yellow solid. Repurification by flash chromatography (Merck Silica gel 60, 230-400 mesh, 100% ethyl acetate) afforded pure 3-cyclopentyl-2-(4-pyridin-4-yl-phenyl)-N-thiazol-2-yl-propionamide (10 mg, 14%) as a yellow solid: mp 165-167° C.; EI-HRMS m/e calcd for C24H25N3O (M+) 371.1998, found 371.1998.

reactant | triphenylphosphine | 0.22 mmol, 59 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 0.22 mmol, 39 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-cyclopentyl-2-(4-pyridin-4-yl-phenyl)-propionic acid | 0.19 mmol, 55 mg | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)C1=CC=NC=C1 | C19H21NO2
reactant | 2-aminopyridine | 0.41 mmol, 39 mg | NC1=NC=CC=C1 | C5H6N2
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-N-pyridin-2-yl-2-(4-pyridin-4-yl-phenyl)-propionamide | C1(CCCC1)CC(C(=O)NC1=NC=CC=C1)C1=CC=C(C=C1)C1=CC=NC=C1 | C24H25N3O
